US07598393B2
Step A. 5-(Ethylthio)pyridin-2-amine
To a solution of 5-bromo-2-(2,2,5,5-tetramethyl-1,2,5-azadisilolidin-1-yl)pyridine (4 g, 12.7 mmol, J. Am. Chem. Soc. 1997, 119, 5499-5511) in tetrahydrofuran (40 mL) was added n-butyllithium at −78° C. under nitrogen. After 2 h, diethyl disulfide (1.7 mL, 12.7 mmol) was added and the mixture was stirred at −78° C. for 3 h. The temperature was gradually raised to room temperature over 2 h. The mixture was poured into ice aqueous sodium hydrogencarbonate. The organic layer was separated and extracted with 2 N hydrochloric acid. The aqueous layer was separated and basified and the mixture was extracted with ethyl acetate (50 mL×4). The organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1 as eluent) to afford the title compound (1.23 g, 63%) as a pale brown solid.

reactant | 5-bromo-2-(2,2,5,5-tetramethyl-1,2,5-azadisilolidin-1-yl)pyridine | 12.7 mmol, 4 g | BrC=1C=CC(=NC1)N1[Si](CC[Si]1(C)C)(C)C | C11H19BrN2Si2
reactant | n-butyllithium | C(CCC)[Li]
reactant | diethyl disulfide | 12.7 mmol, 1.7 mL | C(C)SSCC | C4H10S2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-(Ethylthio)pyridin-2-amine | 1.23 g, 63% | C(C)SC=1C=CC(=NC1)N | C7H10N2S
